US05866594
2) Synthesis of methyl 1-methoxy-4,7-dimethylindole-2-carboxylate (compound 77)
A flask was charged with 1.0 g (4.9 mmol) of methyl 4,7-dimethylindoline-2-carboxylate and 64 mg (0.193 mmol) of sodium tungstate-dihydrate, and the air in the reaction system was substituted with nitrogen. After 15 ml of methanol was added and the reaction mixture was cooled to 0° C., 1.25 g of 30% aqueous hydrogen peroxide solution was added and the reaction mixture was stirred for 3 hours. Then 1.1 g of potassium carbonate and 0.68 g of dimethyl sulfate were added dropwise and the reaction mixture was stirred at 0° C. for 1 hour. The reaction mixture was added dropwise to ice water and extracted with 15 ml of ethyl acetate three times. The ethyl acetate layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crystals thus obtained were purified by silica gel column chromatography to provide 400 mg of white crystals. Yield: 36% m.p.: 90°-91° C.; 1H-NMR (300 MHz, CDCl3 /TMS; δppm): 7.16 (s, 1H), 7.00 (d, 1H), 6.82 (d, 1H), 4.11 (s, 3H), 3.94 (s, 3H), 2.68 (s, 3H), 2.48 (s,3H)

reactant | methyl 4,7-dimethylindoline-2-carboxylate | 4.9 mmol, 1.0 g | CC1=C2CC(NC2=C(C=C1)C)C(=O)OC | C12H15NO2
reactant | hydrogen peroxide | 1.25 g | OO | H2O2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.68 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | 15 ml | CO | CH4O
product | methyl 1-methoxy-4,7-dimethylindole-2-carboxylate | 400 mg, Yield: 36% | CON1C(=CC2=C(C=CC(=C12)C)C)C(=O)OC | C13H15NO3
